.title kicad schematic

.include CD40107BE_SUB.sub
x1 a b c gnd f e d net-_x1-pad8_ CD40107BE_SUB
* u2 b plot_v1
* u3 c plot_v1
* u1 a plot_v1
v2 b gnd  dc 5v
v1 a gnd  dc 5v
* u6 d plot_v1
v4 e gnd  dc 0v
v3 net-_x1-pad8_ gnd  dc 5v
v5 d gnd  dc 5v
* u5 e plot_v1
* u4 f plot_v1
.tran 1e-03 400e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(b)
plot v(c)
plot v(a)
plot v(d)
plot v(e)
plot v(f)
.endc
.end
